US05260316
To a solution of 6-hydroxy-1-oxo-1,2,3,4-tetrahydroisoquinoline (23.8 g, 146 mmol) in acetone (350 mL) is added K2CO3 (34.6 g, 219 mmol) and allyl bromide (19.3 g, 161 mmol). The reaction mixture is then heated to reflux for 24 hours. After this time the solution is filtered and subsequently concentrated in vacuo. The resulting material is washed with hexanes (1×200 mL) and Et2O (1×100 mL) to give 6-allyloxy-1,2,3,4-tetrahydroisoquinolin-1-one as a tan solid, m.p. 105°-107°.

reactant | 6-hydroxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | 146 mmol, 23.8 g | OC=1C=C2CCNC(C2=CC1)=O | C9H9NO2
reactant | K2CO3 | 219 mmol, 34.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 161 mmol, 19.3 g | C(C=C)Br | C3H5Br
solvent | acetone | 350 mL | CC(=O)C | C3H6O
product | 6-allyloxy-1,2,3,4-tetrahydroisoquinolin-1-one | C(C=C)OC=1C=C2CCNC(C2=CC1)=O | C12H13NO2
